US08536168B2
2-[4-(4-Benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-1-dimethylamino-propan-2-ol
Methanesulfonic acid 2-[4-(4-benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-2-hydroxy-propyl ester (64 mg, 0.120 mmol) is combined with dimethylamine (300 μL, 2M in THF, 0.600 mmol), diisoproylethylamine (63 μL, 0.360 mmol), and acetonitrile (1 mL). The mixture is heated to reflux for 16 h. Concentrate the crude mixture in vacuo. The residue is purified by flash chromatography on silica gel (MeOH/CH2Cl2) to afford the title compound (13.4 mg, 23%).

reactant | Methanesulfonic acid 2-[4-(4-benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-2-hydroxy-propyl ester | 0.120 mmol, 64 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(COS(=O)(=O)C)(C)O | C27H30N6O4S
reactant | dimethylamine | 0.600 mmol, 2M, 300 μL | CNC | C2H7N
reactant | diisoproylethylamine | 0.360 mmol, 63 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-[4-(4-Benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-1-dimethylamino-propan-2-ol | 13.4 mg, 23% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(CN(C)C)(C)O | C28H33N7O
